US07759336B2
2-chloro-4-(perhydroazepin-1-yl)quinazoline
To a solution of 2,4-dichloroquinazoline (1.0 g) in tetrahydrofuran (10 mL) were added triethylamine (2.1 mL) and perhydroazepine (0.745 mL) with ice cooling and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added water (20 mL) and the resulting mixture was concentrated. The residue was extracted with methylene chloride three times. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was washed with hexane-diethyl ether (10:1) to give the title compound (991 mg) having the following physical data.

reactant | 2,4-dichloroquinazoline | 1.0 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | perhydroazepine | 0.745 mL | N1CCCCCC1 | C6H13N
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-(perhydroazepin-1-yl)quinazoline | 991 mg | ClC1=NC2=CC=CC=C2C(=N1)N1CCCCCC1 | C14H16ClN3
